US06767916B2
1-[4-Methyl-7-(3-methylbut-2-enyloxy)coumarin-8-yl]-3-phenyl-propen-1-one (See Accompanying Formula Drawing VIB 119)
A solution of KOH 50% (3 ml) is added to an equimolar solution of 4-methyl-7-(3-methylbut-2-enyloxy)-8-acetylcoumarin (2.14 g, 0.0075 mol) and benzaldehyde (0.8 g, 0.0075 mol) in ethanol 95%; the addition is performed under energetic stirring at room temperature. The reaction is left under stirring for one night and then diluted with water and acidified; the precipitate is separated by filtration and dried under vacuum. The compound is crystallized by ethanol to give 1.34 g of product m.p. 114-16° C., 1H-NMR (CDCl3) δ: 1.69 (s, 3H); 1.72 (s, 3H); 2.44 (d, 3H, J=1.22 Hz); 4.65 (d, 2H, J=6.5 Hz); 5.34-5.38 (m, 1H); 6.16 (d, 1H, J=1.2 Hz); 6.95 (d, 1H, J=8.8 Hz); 7.00 (d, 1H, J=18 Hz); 7.10 (d, 1H); 7.30-7.40 (m, 3H); 7.45-7.52 (m, 12H); 7.61 (d, 1H, J=8.9 Hz).

reactant | KOH | 3 ml | [OH-].[K+]
reactant | 4-methyl-7-(3-methylbut-2-enyloxy)-8-acetylcoumarin | 0.0075 mol, 2.14 g | CC1=CC(OC2=C(C(=CC=C12)OCC=C(C)C)C(C)=O)=O | C17H18O4
reactant | benzaldehyde | 0.0075 mol, 0.8 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[4-Methyl-7-(3-methylbut-2-enyloxy)coumarin-8-yl]-3-phenyl-propen-1-one | 1.34 g | CC1=CC(OC2=C(C(=CC=C12)OCC=C(C)C)C(C=CC1=CC=CC=C1)=O)=O | C24H22O4
